US07714126B2
With a procedure similar to example 16 above, 5-ethyl-2-phenyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 5-ethyl-2-phenyl-oxazole-4-carboxylic acid and 6-morpholin-4-yl-pyridin-3-ylamine. LCMS calcd for C21H22N4O3 (m/e) 378, obsd 379 (M+H).

reactant | 5-ethyl-2-phenyl-oxazole-4-carboxylic acid | C(C)C1=C(N=C(O1)C1=CC=CC=C1)C(=O)O | C12H11NO3
reactant | 6-morpholin-4-yl-pyridin-3-ylamine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
product | 5-ethyl-2-phenyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1CC)C1=CC=CC=C1 | C21H22N4O3
